US08242145B2
Step 6: {3-[4-Bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid
To {3-[4-bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester (0.2 g, 0.49 mmol) in 1,4-dioxane:H2O (2:1) was added 1N aqueous lithium hydroxide (10 eq), and the reaction was stirred overnight at room temperature. The pH was adjusted to pH 6 with 10% aqueous HCl, and the mixture was extracted with EtOAc. The crude material was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give the desired product (0.2 g)

reactant | {3-[4-bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester | 0.49 mmol, 0.2 g | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CN1C(OCC1)=O)=O | C19H18BrNO5
reactant | lithium hydroxide | 1N, 10 eq | [OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane H2O | O1CCOCC1.O
product | {3-[4-Bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid | 0.2 g | BrC1=CC(=C(OC=2C=C(C=CC2)CC(=O)O)C=C1)CN1C(OCC1)=O | C18H16BrNO5
